US07498460B2
Methyl 1-[5-(methoxycarbonyl)-2-(3-{4-[(triisopropylsilyl)oxy]phenyl}propoxy)-benzoyl]piperidine-4-carboxylate is prepared by the process described in Example XLI from [4-(3-bromopropyl)phenoxy](triisopropyl)silane and methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]-4-piperidinecarboxylate.

reactant | [4-(3-bromopropyl)phenoxy](triisopropyl)silane | BrCCCC1=CC=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C1 | C18H31BrOSi
reactant | methyl 1-[2-hydroxy-5-(methoxycarbonyl)benzoyl]-4-piperidinecarboxylate | OC1=C(C(=O)N2CCC(CC2)C(=O)OC)C=C(C=C1)C(=O)OC | C16H19NO6
product | Methyl 1-[5-(methoxycarbonyl)-2-(3-{4-[(triisopropylsilyl)oxy]phenyl}propoxy)-benzoyl]piperidine-4-carboxylate | COC(=O)C=1C=CC(=C(C(=O)N2CCC(CC2)C(=O)OC)C1)OCCCC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C34H49NO7Si
